US06579872B1
N-(5-{3-[N-(2-methoxyethyl)-N-methylamino]benzamido}-2-methylphenyl)-3-(4-methylpiperazin-1-ylmethyl)benzamide
A mixture of N-methylpiperazine (3 ml) and N-(5-{3-[N-(2-methoxyethyl)-N-methylamino]benzamido}-2-methylphenyl)-3-chloromethylbenzamide (0.21 g) was stirred and heated to 80° C. for 3 hours. The mixture was cooled to ambient temperature and partitioned between ethyl acetate and water. The organic phase was evaporated and the residue was triturated under diethyl ether. There was thus obtained the title compound (0.17 g); NMR Spectrum: (DMSOd6) 2.17 (d, 6H), 2.33 (m, 8H), 2.98 (s, 3H), 3.23 (s, 3H), 3.50 (m, 6H), 6.87 (d, 1H), 7.2 (m, 4H), 7.46 (m, 2H), 7.57 (m, 1H), 7.8 (s, 1H), 7.86 (m, 2H), 9.87 (s, 1H), 10.06 (s, 1H); Mass Spectrum: M+H+ 530.

reactant | N-methylpiperazine | 3 ml | CN1CCNCC1 | C5H12N2
reactant | N-(5-{3-[N-(2-methoxyethyl)-N-methylamino]benzamido}-2-methylphenyl)-3-chloromethylbenzamide | 0.21 g | COCCN(C)C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)CCl)=O)C)C=CC1 | C26H28ClN3O3
product | N-(5-{3-[N-(2-methoxyethyl)-N-methylamino]benzamido}-2-methylphenyl)-3-(4-methylpiperazin-1-ylmethyl)benzamide | 0.17 g | COCCN(C)C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)CN2CCN(CC2)C)=O)C)C=CC1 | C31H39N5O3
